US06008230
A mixture of 8-(2,6-dichlorobenzoylamino)-4-[(triphenylphosphoranylidene)amino]quinoline (310 mg), 6N hydrochloric acid (5 ml) and acetic acid (5 ml) was heated for 3 hours at 130° C. After cooling, the mixture was neutralized with 6N sodium hydroxide solution, and the insoluble material was collected by filtration. The residue was recrystallized from ethyl acetate to give 4-amino-8-(2,6-dichlorobenzoylamino)quinoline (174 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-4-[(triphenylphosphoranylidene)amino]quinoline | 310 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)N=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=CC=C1)Cl | C34H24Cl2N3OP
reactant | hydrochloric acid | 6N, 5 ml | Cl | ClH
reactant | sodium hydroxide | 6N | [OH-].[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-amino-8-(2,6-dichlorobenzoylamino)quinoline | 174 mg | NC1=CC=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O | C16H11Cl2N3O
